US09422285B2
(2S)-2-Amino-2-(2-thienyl)ethanol
1.59 ml (3.18 mmol) of lithium borohydride (2 M in THF) were initially charged in 2.5 ml of dry THF, 0.80 ml (6.30 mmol) of chlorotrimethylsilane were added at RT and the mixture was stirred at RT for 5 min. Subsequently, 200 mg (1.27 mmol) of (2S)-amino(2-thienyl)acetic acid were added in portions and the reaction mixture was stirred at RT overnight. 2.5 ml of methanol were added dropwise to the reaction mixture, and the mixture was concentrated. The residue was admixed with 1.5 ml of a 20% aqueous potassium hydroxide solution and extracted three times with dichloromethane. The combined organic phases were dried over sodium sulphate, filtered and concentrated. 173 mg of the target compound were obtained (90% of theory).

reactant | lithium borohydride | 3.18 mmol, 2 M, 1.59 ml | [BH4-].[Li+]
reactant | chlorotrimethylsilane | 6.30 mmol, 0.80 ml | Cl[Si](C)(C)C | C3H9ClSi
reactant | (2S)-amino(2-thienyl)acetic acid | 1.27 mmol, 200 mg | N[C@@H](C(=O)O)C=1SC=CC1 | C6H7NO2S
reactant | methanol | 2.5 ml | CO | CH4O
solvent | THF | 2.5 ml | C1CCOC1 | C4H8O
product | (2S)-2-Amino-2-(2-thienyl)ethanol | 173 mg | N[C@@H](CO)C=1SC=CC1 | C6H9NOS
